US04822822
Production of N-methyl-N-(4'-t-butylbenzyl)-9-anthrylmethylamine
2.2 g (0.01 mole) of N-methyl-9-anthrylmethylamine was dissolved in 40 ml of toluene, and 1.7 g (0.012 mole) of anhydrous potassium carbonate was added. With continued stirring at room temperature, 2.49 g (0.011 mole) of p-t-butylbenzylbromide was added, and the mixture was reacted at 40° to 50° C. for 4 hours. The reaction mixture was mixed with ice water, and distributed. The organic layer was washed with water, and toluene was evaporated. The residue was chromatographed on a silica gel column, and eluted with 4% ethyl acetate/n-hexane. The eluate was concentrated to give 3.3 g (yield 91%) of an oily substance.

reactant | N-methyl-9-anthrylmethylamine | 0.01 mole, 2.2 g | CNCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C16H15N
reactant | potassium carbonate | 0.012 mole, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-t-butylbenzylbromide | 0.011 mole, 2.49 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-(4'-t-butylbenzyl)-9-anthrylmethylamine | yield 91% | CN(CC1=CC=C(C=C1)C(C)(C)C)CC=1C2=CC=CC=C2C=C2C=CC=CC12 | C27H29N
